US06479487B1
1-(6-Methoxyhexyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-6-methoxyhexane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-6-methoxyhexane | ClCCCCCCOC | C7H15ClO
product | 1-(6-Methoxyhexyl)-4-piperidone | COCCCCCCN1CCC(CC1)=O | C12H23NO2
